US07105544B2
N-[3-(1-{3-[(DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)-4-METHOXYPHENYL]-2-METHYLPROPANAMIDE
Example 20 was prepared from diphenylacetyl chloride and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methoxyphenyl}-2-methylpropanamide according to the procedures described in Scheme 8: ESMS m/e: 528.3 (M+H)+.

reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methoxyphenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1OC)NC(C(C)C)=O | C19H31N3O2
product | N-[3-(1-{3-[(DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)-4-METHOXYPHENYL]-2-METHYLPROPANAMIDE | C1(=CC=CC=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1OC)NC(C(C)C)=O)C1=CC=CC=C1 | C33H41N3O3
